US07696216B2
A. Synthesis of 3-(3,4-dimethoxy-phenyl)-propan-1-ol
A solution of 6.0 g (28.5 mmol) 3-(3,4-dimethoxyphenyl)-propionic acid in 120 ml anhydrous THF is cooled to 0° C. and treated within 15 minutes with 42.75 ml borane THF complex (1 M solution). Stirring is continued overnight at rt. The resulting clear solution is cooled with an ice/water bath and hydrolyzed by the addition of 100 ml saturated ammonium chloride solution. Extractive work-up with diethyl ether furnishes a colourless oil, which is purified by chromatography (hexane/ethyl acetate) to yield a colourless oil.

reactant | 3-(3,4-dimethoxyphenyl)-propionic acid | 28.5 mmol, 6.0 g | COC=1C=C(C=CC1OC)CCC(=O)O | C11H14O4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 3-(3,4-dimethoxy-phenyl)-propan-1-ol | COC=1C=C(C=CC1OC)CCCO | C11H16O3
